US05866612
6-Nitroindan-1-one (18.1 g, 102 mmol) was dissolved in ethanol (400 ml) and reduced using Pd (5%) on carbon (2.0 g) and 35 psi hydrogen pressure on a Parr apparatus. Filtration on celite followed by evaporation gave 6-aminoindan-1-one (13.7 g, 93 mmol). NMR (DMSO) 7.2 (d, J=7.7Hz, 1H), 6.9 (dd, Jab=7.7Hz, J ax=2.3 Hz, 1H), 6.75 (d, J=2.3Hz, 1H), 5.3 (brs, 2H), 2.9 (t, J=5.6 Hz, 2H), 2.55 (t, J=5.6 Hz, 2H).

reactant | 6-Nitroindan-1-one | 102 mmol, 18.1 g | [N+](=O)([O-])C1=CC=C2CCC(C2=C1)=O | C9H7NO3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 400 ml | C(C)O | C2H6O
catalyst | Pd | [Pd] | Pd
product | 6-aminoindan-1-one | 93 mmol, 13.7 g | NC1=CC=C2CCC(C2=C1)=O | C9H9NO
